US04743640
Preparation of 1-n-hexadecyloxycarbonyloxy-1-methyl-2-benzoylethene (compound 3)
The preparation is carried out as described in Example 1, using 17.8 g (0.11 mole) of benzoylacetone, 30.5 g (0.1 mole) of n-hexadecyl chloroformate and 100 ml of diethyl ether as well as 11 g (0.11 mole) of triethylamine. The crude product (34.7 g) obtained is recrystallised from a mixture of 85 ml of isopropanol and 10 ml of water. The white crystals melt at 31° C.

reactant | benzoylacetone | 0.11 mole, 17.8 g | C(C1=CC=CC=C1)(=O)CC(C)=O | C10H10O2
reactant | n-hexadecyl chloroformate | 0.1 mole, 30.5 g | ClC(=O)OCCCCCCCCCCCCCCCC | C17H33ClO2
reactant | triethylamine | 0.11 mole, 11 g | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 1-n-hexadecyloxycarbonyloxy-1-methyl-2-benzoylethene | 34.7 g | C(CCCCCCCCCCCCCCC)OC(=O)OC(=CC(C1=CC=CC=C1)=O)C | C27H42O4
